US07361677B2
(4-Benzyloxy-3-chloro-5-methoxy-phenyl)-methanol (CAB02170)
A solution of 4-benzyloxy-3-chloro-5-methoxy-benzoic acid benzyl ester (CAB02162, 3.83 g, 10.0 mmol) in THF (20 mL) was added dropwise with a syringe to a suspension of lithium aluminium hydride (500 mg, 13.15 mmol) in THF (30 mL). The mixture was stirred at room temperature for 30 minutes and 2N NaOH (5 mL) was added. The mixture was stirred for another hour, the aluminium salts were filtered off, the filtrate was dried over sodium sulphate and concentrated under reduced pressure. The resulting oil was heated to 120° C. under high vacuum in a kugelrohr-destillation-apparatus to remove benzyl alcohol for 10 h. The product was obtained as a light yellow oil and was used without any further purification. Yield: 2.70 g (97%). 1H-NMR (400 MHz, CDCl3) δ=2.09 (2, 1H, —OH), 3.86 (s, 3H, —OCH3), 4.56 (s, 2H), 5.02 (s, 2H), 6.83 (d, J=2.0 Hz, 1H), 6.95 (d, J=2.0 Hz, 1H), 7.31-7.41 (m, 3H), 7.52-7.55 (m, 2H).

reactant | 4-benzyloxy-3-chloro-5-methoxy-benzoic acid benzyl ester | 10.0 mmol, 3.83 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C(=C1)OC)OCC1=CC=CC=C1)Cl)=O | C22H19ClO4
reactant | lithium aluminium hydride | 13.15 mmol, 500 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2N, 5 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4-Benzyloxy-3-chloro-5-methoxy-phenyl)-methanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)CO)Cl | C15H15ClO3
